US07547710B2
(6-chloro-2-isobutyl-4-phenylquinolin-3-yl)methylamine
To a solution of 2-[(6-chloro-2-isobutyl-4-phenylquinolin-3-yl)methyl]-1H-isoindole-1,3(2H)-dione (0.54 g, 1.18 mmol) in ethanol (50 ml), being-heated under reflux, was added hydrazine monohydrate (3 ml, 62 mmol), and the mixture was heated under reflux for 2 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and saturated aqueous sodium hydrogen carbonate (50 ml)-water (100 ml). The organic layer was washed with saturated aqueous sodium hydrogen carbonate (50 ml) and then saturated brine (20 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography, and crystallized from n-hexane to give the title compound (0.28 g, yield 73%) as pale-yellow crystals.

reactant | 2-[(6-chloro-2-isobutyl-4-phenylquinolin-3-yl)methyl]-1H-isoindole-1,3(2H)-dione | 1.18 mmol, 0.54 g | ClC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C28H23ClN2O2
reactant | hydrazine monohydrate | 62 mmol, 3 ml | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (6-chloro-2-isobutyl-4-phenylquinolin-3-yl)methylamine | 0.28 g, yield 73% | ClC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN)C1=CC=CC=C1 | C20H21ClN2
